US08491869B2
Preparation of N-Methyl-4-(quinolin-3-yl)aniline (T477)
tert-Butyl methyl(4-(quinolin-3-yl)phenyl)carbamate (44 mg, 0.13 mmol) was then treated with TFA by using the general procedure P. The crude product was purified by HPLC to afford T477 as an orange-colored wax (13 mg, 29%). 1H NMR (400 MHz, CDCl3): δ 9.46 (d, J=2.0 Hz, 1H), 8.79 (d, J=1.6 Hz, 1H), 8.47 (d, J=8.4 Hz, 1H), 8.08 (d, J=8.4 Hz, 1H), 7.95 (m, 1H), 7.83 (m, 1H), 7.62 (m, 2H), 6.82 (m, 2H), 2.94 (s, 3H); MS (ESI): 235 (M+H+).

reactant | tert-Butyl methyl(4-(quinolin-3-yl)phenyl)carbamate | 0.13 mmol, 44 mg | CN(C(OC(C)(C)C)=O)C1=CC=C(C=C1)C=1C=NC2=CC=CC=C2C1 | C21H22N2O2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-Methyl-4-(quinolin-3-yl)aniline | CNC1=CC=C(C=C1)C=1C=NC2=CC=CC=C2C1 | C16H14N2
